US08309722B2
Production of (6bR,10aS)-ethyl 2,3,6b,9,10,10a-hexahydro-2-oxo-1H-pyrido[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline-8-carboxylate
A suspension of [4aS,9bR]-ethyl 5-(2-amino-2-oxoethyl)-6-bromo-3,4,4a,5-tetrahydro-1H-pyrido[4,3-b]indole-2(9bH)-carboxylate (254 mg, 1.34 mmol), cuprous iodide (254 mg, 1.34 mol), potassium carbonate (3.96 g, 28.7 mmol) and N,N′-dimethylethylenediamine (0.31 mL, 2.87 mmol) in dioxiane (20 mL) is heated at reflux for 4.5 hours. Another portion of cuprous iodide (250 mg, 1.32 mmol) and N,N′-dimethylethylenediamine (0.33 mL, 3.05 mmol) is added. The resulting mixture is heated to a reflux for another 3 hours and then at 73° C. for about 66 hours. The reaction mixture is concentrated and passed through a short alumina column using 100:3:3 dichloromethan:triethylamine:methanol. The resulting solvent from the column is evaporated to a solid and redissolved in dichloromethane. The dichloromethane solution is washed with brine, dried with sodium phosphate and concentrated to a solid (3.7 g, 95%, 83% pure by HPLC).

reactant | [4aS,9bR]-ethyl 5-(2-amino-2-oxoethyl)-6-bromo-3,4,4a,5-tetrahydro-1H-pyrido[4,3-b]indole-2(9bH)-carboxylate | 1.34 mmol, 254 mg | NC(CN1[C@@H]2[C@H](C=3C=CC=C(C13)Br)CN(CC2)C(=O)OCC)=O | C16H20BrN3O3
reactant | potassium carbonate | 28.7 mmol, 3.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 2.87 mmol, 0.31 mL | CNCCNC | C4H12N2
reactant | N,N′-dimethylethylenediamine | 3.05 mmol, 0.33 mL | CNCCNC | C4H12N2
product | (6bR,10aS)-ethyl 2,3,6b,9,10,10a-hexahydro-2-oxo-1H-pyrido[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline-8-carboxylate | O=C1NC=2C=CC=C3C2N(C1)[C@@H]1[C@H]3CN(CC1)C(=O)OCC | C16H19N3O3
